US06713499B2
A stirred suspension of 200 mg (0.44 mmol) 2-bromo-N-{4-methoxy-7-[(2-methoxy-ethyl)-methyl-amino]-benzothiazol-2-yl}-isonicotinamide, 0.38 ml (4.43 mmol) morpholine and 289 mg (0.89 mmol) cesium carbonate in 5 ml N-methylpyrrolidone in a thick-walled glass pressure tube fitted with a teflon cap was heated at 140° C. for 24 h. The reaction mixture was then cooled to room temperature and poured onto water. The mixture was extracted three times with ethyl acetate, and the combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (ethyl acetate) followed by trituration in ether afforded 100 mg (49%) N-{4-methoxy-7-[(2-methoxy-ethyl)-methyl-amino]-benzothiazol-2-yl}-2-morpholin-4-yl-isonicotinamide as a light yellow crystalline solid. ES-MS m/e (%): 458 (M+H+, 100).

reactant | 2-bromo-N-{4-methoxy-7-[(2-methoxy-ethyl)-methyl-amino]-benzothiazol-2-yl}-isonicotinamide | 0.44 mmol, 200 mg | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N(C)CCOC)OC)C=CN1 | C18H19BrN4O3S
reactant | morpholine | 4.43 mmol, 0.38 ml | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 0.89 mmol, 289 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N-methylpyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | N-{4-methoxy-7-[(2-methoxy-ethyl)-methyl-amino]-benzothiazol-2-yl}-2-morpholin-4-yl-isonicotinamide | 100 mg, 49% | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)N2CCOCC2)=O)N(C)CCOC | C22H27N5O4S
